US06590082B1
Into a 1 liter round-bottom flask equipped with stirrer and Dean Stark trap was charged methyl cyanoacetate (99 grams, 1 mol; obtained from Sigma-Aldrich Co., Milwaukee, Wis.), followed with methanol solvent (150 milliliters), and the mixture was stirred briefly. 2-Ethylhexylamine (130 grams, 1 mol) was slowly added into this mixture, followed with the sequential addition of ethyl acetoacetate (130 grams, 1 mol; obtained from Sigma-Aldrich Co.), and then piperidine (85 grams, 1 mol; obtained from Sigma-Aldrich Co.). The solution was stirred and heated at 100° C. for 12 hours, and then was cooled to room temperature. The mixture was diluted with 2,500 milliliters of methanol and acidified carefully with concentrated hydrochloric acid until a large amount of precipitate had formed. The precipitate was filtered by vacuum and repeatedly washed with deionized water and filtered until the filtrate was of neutral pH. The crude material was recrystallized in warm methanol to afford 170 grams (65 percent yield) of 2-ethylhexyl pyridone as a white solid.

reactant | methyl cyanoacetate | 1 mol, 99 grams | C(#N)CC(=O)OC | C4H5NO2
reactant | 2-Ethylhexylamine | 1 mol, 130 grams | C(C)C(CN)CCCC | C8H19N
reactant | ethyl acetoacetate | 1 mol, 130 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 1 mol, 85 grams | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 milliliters | CO | CH4O
solvent | methanol | 2,500 milliliters | CO | CH4O
product | 2-ethylhexyl pyridone | 170 grams, 65 percent yield | C(C)C(CC=1C(NC=CC1)=O)CCCC | C13H21NO
